US08754114B2
Step 1: ethyl 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propanoate
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.40 g, 2.1 mmol, Aldrich, Cat. 525057), ethyl 2-bromopropanoate (290 μL, 2.3 mmol), and cesium carbonate (1.5 g, 4.6 mmol) in acetonitrile (8 mL) was stirred at 90° C. for 4 h. After cooling, the reaction mixture was worked up with aqueous Na2CO3, extracted with ethyl acetate (3×20 mL), and washed with brine. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-50%) to afford the desired product (0.42 g, 61%). LCMS (M+H)+: m/z=295.1.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.1 mmol, 0.40 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | ethyl 2-bromopropanoate | 2.3 mmol, 290 μL | BrC(C(=O)OCC)C | C5H9BrO2
reactant | cesium carbonate | 4.6 mmol, 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | ethyl 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propanoate | 0.42 g, 61% | CC1(OB(OC1(C)C)C=1C=NN(C1)C(C(=O)OCC)C)C | C14H23BN2O4
